US08227801B2
Synthesis of 9-phenyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-9H-carbazole.
3-bromo-9-phenyl-9H-carbazole (30 g, 93 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (47.3 g, 186 mmol), and potassium acetate (22.85 g, 233 mmol) were added to 400 mL of dioxane. Nitrogen was bubbled to the solution for 20 min. Pd(dppf)Cl2 (2.281 g, 2.79 mmol) was added and the reaction mixture was heated up to 80° C. for 6 h. The reaction was monitored by TLC. After cooled to room temperature, the reaction was filtered through a silica gel plug. The diboron was removed by vacuum distillation at 160° C. The residue was coated on celite and purified by column using 2% of ethyl acetate and hexanes as solvent. 16.5 g of product was obtained after purification.

reactant | 3-bromo-9-phenyl-9H-carbazole | 93 mmol, 30 g | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C18H12BrN
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 186 mmol, 47.3 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 233 mmol, 22.85 g | C(C)(=O)[O-].[K+]
catalyst | Pd(dppf)Cl2 | 2.79 mmol, 2.281 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | 9-phenyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-9H-carbazole | 16.5 g | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)B1OC(C(O1)(C)C)(C)C | C24H24BNO2
